************************************************************************
* Library Name: sky130_scl_9T_phyCells
* Cell Name:    ANTENNA
* View Name:    schematic
************************************************************************

.SUBCKT ANTENNA A VDD VSS
*.PININFO A:I
DD0 A VDD diode_pd2nw_05v5 1e-12 4e-06 m=1
DD1 VSS A diode_pw2nd_05v5 0.36 2.4 m=1
.ENDS

************************************************************************
* Library Name: sky130_scl_9T_phyCells
* Cell Name:    FILL_DECAP16
* View Name:    schematic
************************************************************************

.SUBCKT FILL_DECAP16 VDD VSS
*.PININFO
MNM0 VSS VDD VSS VSS nfet_01v8 W=2.8u L=5.78u M=1
.ENDS

************************************************************************
* Library Name: sky130_scl_9T_phyCells
* Cell Name:    FILL_DECAP8
* View Name:    schematic
************************************************************************

.SUBCKT FILL_DECAP8 VDD VSS
*.PININFO
MNM0 VSS VDD VSS VSS nfet_01v8 W=2.8u L=2.1u M=1
.ENDS

************************************************************************
* Library Name: sky130_scl_9T_phyCells
* Cell Name:    TIEHI
* View Name:    schematic
************************************************************************

.SUBCKT TIEHI Y VDD VSS
*.PININFO Y:O
Mmp0 Y net1 VDD VDD pfet_01v8 W=1.13u L=150n M=1
Mmn0 net1 net1 VSS VSS nfet_01v8 W=760n L=150n M=1
.ENDS

************************************************************************
* Library Name: sky130_scl_9T_phyCells
* Cell Name:    TIELO
* View Name:    schematic
************************************************************************

.SUBCKT TIELO Y VDD VSS
*.PININFO Y:O
Mmp0 net1 net1 VDD VDD pfet_01v8 W=1.13u L=150n M=1
Mmn0 Y net1 VSS VSS nfet_01v8 W=760n L=150n M=1
.ENDS

