*
*|DSPF 1.5
*
*|DATE "Mon Aug 18 13:11:36 2025"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "FILL_DECAP16"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.1.0/quantus/extraction/typical 
** HIERARCHICAL_SPLIT_PINS_DELIMITER '%'
** caps2d version: 10
*
.SUBCKT  FILL_DECAP16
*
*Net Section
*
*|GROUND_NET VSS!
*
*|NET VSS! 0
*|P (VSS! X 0 0.4450 0.0050)
*|I (MNM0#s MNM0 s X 0 0.7895 1.8250)
*|I (MNM0#d MNM0 d X 0 6.5705 1.8250)
*|S (VSS!#1 0.6500 1.8250)
*|S (VSS!#2 0.6500 1.8250)
*|S (VSS!#5 0.6500 0.7700)
*|S (VSS!#7 6.7100 1.8250)
*|S (VSS!#8 6.7100 1.8250)
*|S (VSS!#10 6.7100 0.7700)
*|S (VSS!#11 3.6800 0.0000)
*|S (VSS!#12 3.6800 0.0000)
*|S (VSS!#13 3.6800 0.0000)
*|S (VSS!#16 6.7100 0.7700)
*|S (VSS!#17 6.9775 0.0000)
*|S (VSS!#18 3.6800 0.0000)
*|S (VSS!#19 0.6500 0.0000)
*|S (VSS!#20 0.6500 0.7700)
RfB12 VSS!#2 VSS!#5 27.843298 $L=1.055 $W=0.17
RfB13 VSS!#7 VSS!#10 27.843298 $L=1.055 $W=0.17
ReB14 VSS!#16 VSS!#17 0.416673 $L=0.77 $W=0.23
ReB15 VSS!#17 VSS!#18 0.950513 $L=3.2975 $W=0.4
ReB16 VSS!#18 VSS!#19 0.944815 $L=3.03 $W=0.4
ReB17 VSS!#19 VSS! 0.062002 $L=0.205 $W=0.4
ReB18 VSS!#19 VSS!#20 0.343953 $L=0.77 $W=0.23
RhB19 MNM0#s VSS!#2 1.875000 $A=0.2312
RhB20 MNM0#d VSS!#7 1.875000 $A=0.2312
RhB21 VSS!#11 VSS!#12 1.000000 $A=0.4335
Rh_1_B22 VSS!#1 VSS!#2 1.875000 $A=0.2312
Rh_1_B23 VSS!#8 VSS!#7 1.875000 $A=0.2312
Rh_4_B24 VSS!#13 VSS!#12 1.000000 $A=0.4335
RjB25 VSS!#10 VSS!#16 76.000000 $A=0.0578
RjB26 VSS!#12 VSS!#18 10.133333 $A=0.4335
RjB27 VSS!#5 VSS!#20 76.000000 $A=0.0578
*
*|NET VDD! 1.21127e-15
*|P (VDD! X 0 0.4900 4.1450)
*|I (MNM0#g MNM0 g X 0 3.6800 1.8250)
*|S (VDD!#4 3.6800 3.5500)
*|S (VDD!#5 3.6800 3.5500)
*|S (VDD!#7 3.9100 4.1400)
*|S (VDD!#8 3.9100 4.1400)
*|S (VDD!#10 3.9100 4.1400)
*|S (VDD!#12 7.3595 4.1400)
*|S (VDD!#13 6.5695 4.1400)
*|S (VDD!#14 3.9100 4.1400)
*|S (VDD!#15 3.6800 3.5500)
*|S (VDD!#16 0.7900 4.1400)
CA1 MNM0#g VSS! 5.44284e-16
CA2 VDD!#16 VSS! 5.98747e-18
CA3 VDD!#13 VSS! 5.98747e-18
CA4 VDD!#7 VSS! 6.83736e-18
CA5 VDD! VSS! 6.48178e-16
RgA1 VDD!#4 MNM0#g 14.384948 $L=1.725 $W=5.78
ReA2 VDD!#12 VDD!#13 0.246753 $L=0.7895 $W=0.4
ReA3 VDD!#13 VDD!#14 0.400456 $L=2.6595 $W=0.925
ReA4 VDD!#14 VDD!#15 0.031081 $L=0.23 $W=0.925
ReA5 VDD!#15 VDD!#16 0.390507 $L=2.8895 $W=0.925
ReA6 VDD!#16 VDD! 0.093784 $L=0.3 $W=0.4
Rh_2_A7 VDD!#8 VDD!#7 1.071429 $A=0.4046
Rh_3_A8 VDD!#10 VDD!#7 1.071429 $A=0.4046
RjA9 VDD!#7 VDD!#14 10.857142 $A=0.4046
RjA10 VDD!#5 VDD!#15 9.500000 $A=0.4624
RiA11 VDD!#4 VDD!#5 0.882353 $A=0.4913
*
*Instance Section
*
MNM0	MNM0#d	MNM0#g	MNM0#s	VSS!#13	nfet_01v8	L=5.78e-06
+ W=2.8e-06
.ENDS
*
*|DSPF 1.5
*
*|DATE "Mon Aug 18 13:10:55 2025"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "FILL_DECAP8"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.1.0/quantus/extraction/typical 
** HIERARCHICAL_SPLIT_PINS_DELIMITER '%'
** caps2d version: 10
*
.SUBCKT  FILL_DECAP8
*
*Net Section
*
*|GROUND_NET VSS!
*
*|NET VDD! 8.60597e-16
*|P (VDD! X 0 0.4900 4.1450)
*|I (MNM0#g MNM0 g X 0 1.8400 1.8250)
*|S (VDD!#4 1.8400 3.5500)
*|S (VDD!#5 1.8400 3.5500)
*|S (VDD!#7 1.8400 4.1400)
*|S (VDD!#8 1.8400 4.1400)
*|S (VDD!#10 1.8400 4.1400)
*|S (VDD!#12 3.6795 4.1400)
*|S (VDD!#13 2.8895 4.1400)
*|S (VDD!#14 1.8400 4.1400)
*|S (VDD!#16 0.7900 4.1400)
CA1 MNM0#g VSS! 3.62977e-16
CA2 VDD!#16 VSS! 5.98747e-18
CA3 VDD!#13 VSS! 5.98747e-18
CA4 VDD!#7 VSS! 6.83736e-18
CA5 VDD! VSS! 4.78808e-16
RgA1 VDD!#4 MNM0#g 39.592857 $L=1.725 $W=2.1
ReA2 VDD!#12 VDD!#13 0.246753 $L=0.7895 $W=0.4
ReA3 VDD!#13 VDD!#14 0.182888 $L=1.0495 $W=0.925
ReA4 VDD!#14 VDD!#16 0.141858 $L=1.0495 $W=0.925
ReA5 VDD!#16 VDD! 0.093784 $L=0.3 $W=0.4
Rh_2_A6 VDD!#8 VDD!#7 2.142857 $A=0.2023
Rh_3_A7 VDD!#10 VDD!#7 2.142857 $A=0.2023
RjA8 VDD!#7 VDD!#14 21.714285 $A=0.2023
RjA9 VDD!#5 VDD!#14 30.400000 $A=0.1445
RiA10 VDD!#4 VDD!#5 2.500000 $A=0.1734
*
*|NET VSS! 0
*|P (VSS! X 0 0.4450 0.0050)
*|I (MNM0#s MNM0 s X 0 0.7895 1.8250)
*|I (MNM0#d MNM0 d X 0 2.8905 1.8250)
*|S (VSS!#1 0.6500 1.8250)
*|S (VSS!#2 0.6500 1.8250)
*|S (VSS!#5 0.6500 0.7700)
*|S (VSS!#7 3.0300 1.8250)
*|S (VSS!#8 3.0300 1.8250)
*|S (VSS!#10 3.0300 0.7700)
*|S (VSS!#11 1.8400 0.0000)
*|S (VSS!#12 1.8400 0.0000)
*|S (VSS!#13 1.8400 0.0000)
*|S (VSS!#16 3.0300 0.7700)
*|S (VSS!#17 3.2975 0.0000)
*|S (VSS!#18 1.8400 0.0000)
*|S (VSS!#19 0.6500 0.0000)
*|S (VSS!#20 0.6500 0.7700)
RfB11 VSS!#2 VSS!#5 27.843298 $L=1.055 $W=0.17
RfB12 VSS!#7 VSS!#10 27.843298 $L=1.055 $W=0.17
ReB13 VSS!#16 VSS!#17 0.416673 $L=0.77 $W=0.23
ReB14 VSS!#17 VSS!#18 0.375513 $L=1.4575 $W=0.4
ReB15 VSS!#18 VSS!#19 0.369815 $L=1.19 $W=0.4
ReB16 VSS!#19 VSS! 0.062002 $L=0.205 $W=0.4
ReB17 VSS!#19 VSS!#20 0.343953 $L=0.77 $W=0.23
RhB18 MNM0#s VSS!#2 1.875000 $A=0.2312
RhB19 MNM0#d VSS!#7 1.875000 $A=0.2312
RhB20 VSS!#11 VSS!#12 2.142857 $A=0.2023
Rh_1_B21 VSS!#1 VSS!#2 1.875000 $A=0.2312
Rh_1_B22 VSS!#8 VSS!#7 1.875000 $A=0.2312
Rh_4_B23 VSS!#13 VSS!#12 2.142857 $A=0.2023
RjB24 VSS!#10 VSS!#16 76.000000 $A=0.0578
RjB25 VSS!#12 VSS!#18 21.714285 $A=0.2023
RjB26 VSS!#5 VSS!#20 76.000000 $A=0.0578
*
*Instance Section
*
MNM0	MNM0#d	MNM0#g	MNM0#s	VSS!#13	nfet_01v8	L=2.1e-06
+ W=2.8e-06
.ENDS
*
*|DSPF 1.5
*
*|DATE "Mon Aug 18 13:10:13 2025"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "TIEHI"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.1.0/quantus/extraction/typical 
** HIERARCHICAL_SPLIT_PINS_DELIMITER '%'
** caps2d version: 10
*
.SUBCKT  TIEHI Y
*
*Net Section
*
*|GROUND_NET VSS!
*
*|NET VSS! 0
*|P (VSS! X 0 0.6450 0.0050)
*|I (Mmn0#s Mmn0 s X 0 0.3995 0.9700)
*|S (VSS!#1 0.6900 0.0000)
*|S (VSS!#2 0.6900 0.0000)
*|S (VSS!#4 0.6900 0.0000)
*|S (VSS!#6 0.1725 0.0000)
*|S (VSS!#7 0.2600 0.1245)
*|S (VSS!#8 0.2600 0.9700)
*|S (VSS!#9 0.2600 0.9700)
*|S (VSS!#12 0.6900 0.0000)
RfC16 VSS!#1 VSS!#6 21.359718 $L=0.5175 $W=0.25
RfC17 VSS!#6 VSS!#7 3.709770 $L=0.1245 $W=0.345
RfC18 VSS!#7 VSS!#9 63.632805 $L=0.845 $W=0.17
ReC19 VSS!#12 VSS! 0.014062 $L=0.045 $W=0.4
RhC20 VSS!#4 VSS!#1 7.500000 $A=0.0578
RhC21 Mmn0#s VSS!#9 7.500000 $A=0.0578
Rh_1_C22 VSS!#8 VSS!#9 7.500000 $A=0.0578
Rh_5_C23 VSS!#2 VSS!#1 7.500000 $A=0.0578
RjC24 VSS!#1 VSS!#12 76.000000 $A=0.0578
*
*|NET VDD! 6.07586e-16
*|P (VDD! X 0 0.6450 4.1450)
*|I (Mmp0#s Mmp0 s X 0 0.3995 2.9850)
*|S (VDD!#1 0.6900 4.1400)
*|S (VDD!#2 0.6900 4.1400)
*|S (VDD!#3 0.6900 4.1400)
*|S (VDD!#6 0.1725 4.1400)
*|S (VDD!#7 0.2600 4.0150)
*|S (VDD!#8 0.2600 2.9850)
*|S (VDD!#9 0.2600 2.9850)
*|S (VDD!#12 0.6900 4.1400)
CB1 Mmp0#s VSS! 1.08113e-16
CB2 VDD!#6 VSS! 2.16523e-17
CB3 VDD! VSS! 4.77821e-16
RfB7 VDD!#2 VDD!#6 21.359718 $L=0.5175 $W=0.25
RfB8 VDD!#6 VDD!#7 3.709770 $L=0.1245 $W=0.345
RfB9 VDD!#7 VDD!#9 77.562218 $L=1.03 $W=0.17
ReB10 VDD!#12 VDD! 0.014062 $L=0.045 $W=0.4
Rh_2_B11 VDD!#1 VDD!#2 7.500000 $A=0.0578
Rh_3_B12 VDD!#3 VDD!#2 7.500000 $A=0.0578
Rh_3_B13 Mmp0#s VDD!#9 5.000000 $A=0.0867
Rh_4_B14 VDD!#8 VDD!#9 5.000000 $A=0.0867
RjB15 VDD!#2 VDD!#12 76.000000 $A=0.0578
*
*|NET Y 2.85151e-16
*|P (Y X 0 0.9170 3.2350)
*|I (Mmp0#d Mmp0 d X 0 0.5505 2.9850)
*|S (Y#1 0.6900 3.1650)
*|S (Y#2 0.6900 2.9850)
*|S (Y#3 0.6900 2.9850)
*|S (Y#6 0.6900 3.1650)
*|S (Y#7 0.7900 2.8700)
CA1 Mmp0#d VSS! 1.02542e-18
CA2 Y#6 VSS! 6.21278e-17
CA3 Y#2 VSS! 9.58816e-17
CA4 Y VSS! 1.26116e-16
RfA1 Y#1 Y#3 4.517647 $L=0.18 $W=0.17
ReA2 Y#6 Y#7 0.019256 $L=0.1 $W=0.65
ReA3 Y#7 Y 0.018683 $L=0.1265 $W=1.24
Rh_3_A4 Mmp0#d Y#3 5.000000 $A=0.0867
Rh_4_A5 Y#2 Y#3 5.000000 $A=0.0867
RjA6 Y#1 Y#6 76.000000 $A=0.0578
*
*|NET net1 3.31486e-16
*|I (Mmn0#g Mmn0 g X 0 0.4750 0.9700)
*|I (Mmn0#d Mmn0 d X 0 0.5505 0.9700)
*|I (Mmp0#g Mmp0 g X 0 0.4750 2.9850)
*|S (net1 0.4750 2.9850)
*|S (net1#7 0.4750 1.7650)
*|S (net1#8 0.4750 1.6000)
*|S (net1#9 0.6900 0.9300)
*|S (net1#11 0.6900 0.9700)
*|S (net1#12 0.6900 0.9700)
*|S (net1#14 0.4750 1.7650)
*|S (net1#15 0.6900 0.9300)
CD1 Mmn0#g VSS! 3.59604e-17
CD2 net1#15 VSS! 8.59308e-17
CD3 net1#14 VSS! 7.24207e-17
CD4 net1#9 VSS! 6.50076e-17
CD5 net1 VSS! 7.21663e-17
RgD25 net1 net1#7 373.185730 $L=1.22 $W=0.15
RgD26 net1#7 net1#8 34.134449 $L=0.1645 $W=0.27
RgD27 net1#8 Mmn0#g 202.484619 $L=0.63 $W=0.15
RfD28 net1#9 net1#11 1.066667 $L=0.04 $W=0.17
RfD29 net1#11 net1#14 70.398788 $L=1.01 $W=0.17
RhD30 Mmn0#d net1#11 7.500000 $A=0.0578
Rh_1_D31 net1#12 net1#11 7.500000 $A=0.0578
RjD32 net1#9 net1#15 76.000000 $A=0.0578
RiD33 net1#7 net1#14 15.000000 $A=0.0289
RmwD34 Mmp0#g net1 0.001000 $W=1000000
*
*Instance Section
*
Mmn0	Mmn0#d	Mmn0#g	Mmn0#s	VSS!#2	nfet_01v8	L=1.5e-07
+ W=7.6e-07
Mmp0	Mmp0#d	Mmp0#g	Mmp0#s	VDD!	pfet_01v8	L=1.5e-07
+ W=1.13e-06
.ENDS
*
*|DSPF 1.5
*
*|DATE "Mon Aug 18 13:09:02 2025"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "TIELO"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.1.0/quantus/extraction/typical 
** HIERARCHICAL_SPLIT_PINS_DELIMITER '%'
** caps2d version: 10
*
.SUBCKT  TIELO Y
*
*Net Section
*
*|GROUND_NET VSS!
*
*|NET VSS! 0
*|P (VSS! X 0 0.6450 0.0050)
*|I (Mmn0#s Mmn0 s X 0 0.3995 0.9700)
*|S (VSS!#1 0.6900 0.0000)
*|S (VSS!#2 0.6900 0.0000)
*|S (VSS!#4 0.6900 0.0000)
*|S (VSS!#6 0.1725 0.0000)
*|S (VSS!#7 0.2600 0.1245)
*|S (VSS!#8 0.2600 0.9700)
*|S (VSS!#9 0.2600 0.9700)
*|S (VSS!#12 0.6900 0.0000)
RfC16 VSS!#1 VSS!#6 21.359718 $L=0.5175 $W=0.25
RfC17 VSS!#6 VSS!#7 3.709770 $L=0.1245 $W=0.345
RfC18 VSS!#7 VSS!#9 63.632805 $L=0.845 $W=0.17
ReC19 VSS!#12 VSS! 0.014062 $L=0.045 $W=0.4
RhC20 VSS!#4 VSS!#1 7.500000 $A=0.0578
RhC21 Mmn0#s VSS!#9 7.500000 $A=0.0578
Rh_1_C22 VSS!#8 VSS!#9 7.500000 $A=0.0578
Rh_5_C23 VSS!#2 VSS!#1 7.500000 $A=0.0578
RjC24 VSS!#1 VSS!#12 76.000000 $A=0.0578
*
*|NET net1 3.36715e-16
*|I (Mmn0#g Mmn0 g X 0 0.4750 0.9700)
*|I (Mmp0#d Mmp0 d X 0 0.3995 2.9850)
*|I (Mmp0#g Mmp0 g X 0 0.4750 2.9850)
*|S (net1 0.4750 2.9850)
*|S (net1#7 0.4750 1.7650)
*|S (net1#8 0.4750 1.6000)
*|S (net1#9 0.4750 1.7650)
*|S (net1#10 0.2600 2.9850)
*|S (net1#11 0.2600 2.9850)
CD1 Mmn0#g VSS! 6.05933e-17
CD2 net1#9 VSS! 1.0024e-16
CD3 net1#10 VSS! 1.32499e-16
CD4 net1 VSS! 4.33815e-17
RgD25 net1 net1#7 373.185730 $L=1.22 $W=0.15
RgD26 net1#7 net1#8 34.134449 $L=0.1645 $W=0.27
RgD27 net1#8 Mmn0#g 202.484619 $L=0.63 $W=0.15
RfD28 net1#9 net1#11 102.398788 $L=1.435 $W=0.17
Rh_3_D29 Mmp0#d net1#11 5.000000 $A=0.0867
Rh_4_D30 net1#10 net1#11 5.000000 $A=0.0867
RiD31 net1#7 net1#9 15.000000 $A=0.0289
RmwD32 Mmp0#g net1 0.001000 $W=1000000
*
*|NET Y 3.03564e-16
*|P (Y X 0 0.9200 1.5900)
*|I (Mmn0#d Mmn0 d X 0 0.5505 0.9700)
*|S (Y#1 0.6900 0.9700)
*|S (Y#2 0.6900 0.9700)
*|S (Y#5 0.6900 0.9300)
*|S (Y#6 0.9200 0.9300)
*|S (Y#7 0.6900 0.9300)
CA1 Y#7 VSS! 1.35697e-16
CA2 Y#5 VSS! 8.0297e-17
CA3 Y VSS! 8.75696e-17
RfA1 Y#2 Y#5 1.066667 $L=0.04 $W=0.17
ReA2 Y Y#6 0.205056 $L=0.66 $W=0.26
ReA3 Y#6 Y#7 0.063229 $L=0.23 $W=0.65
RhA4 Mmn0#d Y#2 7.500000 $A=0.0578
Rh_1_A5 Y#1 Y#2 7.500000 $A=0.0578
RjA6 Y#5 Y#7 76.000000 $A=0.0578
*
*|NET VDD! 5.74358e-16
*|P (VDD! X 0 0.6450 4.1450)
*|I (Mmp0#s Mmp0 s X 0 0.5505 2.9850)
*|S (VDD!#1 1.3795 4.1400)
*|S (VDD!#2 0.6900 4.1400)
*|S (VDD!#3 0.6900 4.1400)
*|S (VDD!#5 0.6900 4.1400)
*|S (VDD!#7 0.0000 4.1400)
*|S (VDD!#8 0.6900 2.9850)
*|S (VDD!#9 0.6900 2.9850)
*|S (VDD!#12 0.6900 4.1400)
CB1 Mmp0#s VSS! 1.89928e-18
CB2 VDD!#7 VSS! 4.72163e-18
CB3 VDD!#3 VSS! 7.70708e-18
CB4 VDD!#8 VSS! 9.6485e-17
CB5 VDD! VSS! 4.63545e-16
RfB7 VDD!#1 VDD!#2 35.302399 $L=0.6895 $W=0.25
RfB8 VDD!#2 VDD!#7 35.327999 $L=0.69 $W=0.25
RfB9 VDD!#2 VDD!#9 83.952942 $L=1.155 $W=0.17
ReB10 VDD!#12 VDD! 0.014062 $L=0.045 $W=0.4
Rh_2_B11 VDD!#3 VDD!#2 7.500000 $A=0.0578
Rh_3_B12 VDD!#5 VDD!#2 7.500000 $A=0.0578
Rh_3_B13 Mmp0#s VDD!#9 5.000000 $A=0.0867
Rh_4_B14 VDD!#8 VDD!#9 5.000000 $A=0.0867
RjB15 VDD!#2 VDD!#12 76.000000 $A=0.0578
*
*Instance Section
*
Mmn0	Mmn0#d	Mmn0#g	Mmn0#s	VSS!#2	nfet_01v8	L=1.5e-07
+ W=7.6e-07
Mmp0	Mmp0#d	Mmp0#g	Mmp0#s	VDD!	pfet_01v8	L=1.5e-07
+ W=1.13e-06
.ENDS
