// Library name: sky130_scl_9T_phyCells
// Cell name: ANTENNA
// View name: schematic
subckt ANTENNA A VDD VSS
    D0 (A VDD) diode_pd2nw_05v5 area=1e-12 pj=4e-06 m=1
    D1 (VSS A) diode_pw2nd_05v5 area=0.36 pj=2.4 m=1
ends ANTENNA
// End of subcircuit definition.

// Library name: sky130_scl_9T_phyCells
// Cell name: FILL_DECAP8
// View name: schematic
subckt FILL_DECAP8 VDD VSS
    NM0 (VSS VDD VSS VSS) nfet_01v8 w=(2.8u) l=2.1u \
        as=742f ad=742f ps=6.13u pd=6.13u m=(1)*(1)
ends FILL_DECAP8
// End of subcircuit definition.

// Library name: sky130_scl_9T_phyCells
// Cell name: FILL_DECAP16
// View name: schematic
subckt FILL_DECAP16 VDD VSS
    NM0 (VSS VDD VSS VSS) nfet_01v8 w=(2.8u) l=5.78u \
        as=742f ad=742f ps=6.13u pd=6.13u m=(1)*(1)
ends FILL_DECAP16
// End of subcircuit definition.

// Library name: sky130_scl_9T_phyCells
// Cell name: TIELO
// View name: schematic
subckt TIELO VDD VSS Y
    mp0 (net1 net1 VDD VDD) pfet_01v8 w=(1.13u) l=150n as=299.45f \
        ad=299.45f ps=2.79u pd=2.79u m=(1)*(1)
    mn0 (Y net1 VSS VSS) nfet_01v8 w=(760n) l=150n as=201.4f \
        ad=201.4f ps=2.05u pd=2.05u m=(1)*(1)
ends TIELO
// End of subcircuit definition.

// Library name: sky130_scl_9T_phyCells
// Cell name: TIEHI
// View name: schematic
subckt TIEHI VDD VSS Y
    mp0 (Y net1 VDD VDD) pfet_01v8 w=(1.13u) l=150n as=299.45f \
        ad=299.45f ps=2.79u pd=2.79u m=(1)*(1)
    mn0 (net1 net1 VSS VSS) nfet_01v8 w=(760n) l=150n as=201.4f \
        ad=201.4f ps=2.05u pd=2.05u m=(1)*(1)
ends TIEHI
// End of subcircuit definition.

